US06596772B1
PyBOP (604 mg, 1.16 mmol) was added to the mixture of 6-[(Methyl-trifluoromethanesulfonyl-amino-)-methyl]-naphthalene-2-carboxylic acid (200 mg, 0.58 mmol), ethyl-3-amino-benzoate (86 ul, 0.58 mmol) in DCM (5 ml), followed by addition of DMAP (106 mg, 0.87 mmol). Allowed the mixture stirred at room temperature for overnight. Added more DCM, washed with 1N HCl, NaHCO3(sat.), and brine. Evaporated the solvent to give a white solid which was dissolved in 10 ml of methanol, added NaOH (5 eq, 116 mg) in H2O (10 ml), stirred at room temperature for overnight. Added more H2O and NaOH, then washed with DCM. Separated the DCM, the aqueous layer was acidified with 6N HCl, the resulting white solid was collected by vacuum filtration, washed with H2O, vacuum dry to get 100 mg of 3-({6-[(Methyl-trifluoromethanesulfonyl-amino)-methyl]-naphthalene-2-carbonyl}-amino)-benzoic acid.

reactant | PyBOP | 1.16 mmol, 604 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 6-[(Methyl-trifluoromethanesulfonyl-amino-)-methyl]-naphthalene-2-carboxylic acid | 0.58 mmol, 200 mg | CN(S(=O)(=O)C(F)(F)F)CC=1C=C2C=CC(=CC2=CC1)C(=O)O | C14H12F3NO4S
reactant | ethyl-3-amino-benzoate | 0.58 mmol, 86 ul | C(C)OC(C1=CC(=CC=C1)N)=O | C9H11NO2
reactant | NaOH | 116 mg, 5 eq | [OH-].[Na+]
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.87 mmol, 106 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methanol | 10 ml | CO | CH4O
solvent | H2O | 10 ml | O | H2O
product | 3-({6-[(Methyl-trifluoromethanesulfonyl-amino)-methyl]-naphthalene-2-carbonyl}-amino)-benzoic acid | 100 mg | CN(S(=O)(=O)C(F)(F)F)CC=1C=C2C=CC(=CC2=CC1)C(=O)NC=1C=C(C(=O)O)C=CC1 | C21H17F3N2O5S
